US07297698B2
4-[(2S,5R)-2,5-Dimethylpiperazin-1-yl]-2-fluoro-6-methoxybenzonitrile
The compound was synthesized in the similar manner as in Reference Example 4-1 using 4-[(2S,5R)-2,5-dimethylpiperazin-1-yl]-2,6-difluorobenzonitrile and 1 equivalent of potassium tert-butoxide.

reactant | 4-[(2S,5R)-2,5-dimethylpiperazin-1-yl]-2,6-difluorobenzonitrile | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C(=C1)F)F | C13H15F2N3
reactant | potassium tert-butoxide | 1 equivalent | CC(C)([O-])C.[K+]
product | 4-[(2S,5R)-2,5-Dimethylpiperazin-1-yl]-2-fluoro-6-methoxybenzonitrile | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C(=C1)OC)F | C14H18FN3O
